Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
aspiration, hypoxia
Reason for MICU transfer: hypotension
 
Major Surgical or Invasive Procedure:
___: L chest tube placement
 
History of Present Illness:
Patient is a ___ year old fever with dementia, DM, who presents 
from her rehab facility with hypoxia after an aspiration event 
yesterday. Since that time she has developed a new oxygen 
requirement. She has also been relatively hypotensive (104/65, 
baseline SBP 130s), tachycardic to 130s, and tachypneic in the 
___. A CXR showed near complete L lung white-out. She received 
1g IM ceftriaxone before being sent to the ED.

On arrival to the ED here, her vitals were: 98.6, 74, 98/70, 28, 
92% on 3L. She was given 1L IVF, levofloxacin and metronidazole 
here. A chest tube was placed and 2L of serous fluid was 
drained. After the procedure she became hypotensive to SBP ___ 
and received an additional 2L of IVF, with improvement in her BP 
to 115/38. Labs were significant for WBC of 12.9 with 81.3% 
PMNs.

On arrival to the FICU, the patient is on norepinephrine with a 
L femoral line placed. Vitals: 98.5, 95, 117/53, 33, 95% on 4L. 
Not in respiratory distress.
 
Past Medical History:
ANEMIA 
ATYPICAL CHEST PAINS 
DEMENTIA
DEPRESSION
DIABETES TYPE II
HISTORY OF TUBERCULOSIS 
HYPERLIPIDEMIA
OBESITY
OSTEOARTHRITIS
SYSTOLIC HYPERTENSION
URINARY INCONTINENCE
 
Social History:
___
___ History:
Not obtained
 
Physical Exam:
ADMISSION EXAM
===============
T: 98.5 BP 117/53 RR 33 P 95 SaO2 95% 4L
limited due to poor patient cooperation
General: Did not respond to questions (with ___ translator 
over the phone), no acute distress  
HEENT: MMM
Neck: supple, JVP not elevated, no LAD  
Lungs: crackles at bases bilaterally, decreased breath sounds at 
L base, L chest tube in place
CV: Regular rate and rhythm, normal S1 + S2, ___ SEM best at 
RUSB, no rubs/gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:25PM BLOOD WBC-12.9* RBC-4.82 Hgb-11.9* Hct-39.5 
MCV-82 MCH-24.6* MCHC-30.0* RDW-15.6* Plt ___
___ 07:25PM BLOOD Neuts-81.3* Lymphs-12.6* Monos-5.3 
Eos-0.6 Baso-0.3
___ 08:04PM BLOOD ___ PTT-31.7 ___
___ 07:25PM BLOOD Glucose-157* UreaN-32* Creat-1.0 Na-146* 
K-4.4 Cl-106 HCO3-32 AnGap-12
___ 07:25PM BLOOD ALT-15 AST-21 LD(LDH)-162 AlkPhos-101 
TotBili-0.5
___ 07:25PM BLOOD TotProt-6.3* Albumin-3.6 Globuln-2.7
___ 07:32PM BLOOD Lactate-1.8

INTERIM LABS
============
___ 04:04AM BLOOD Lactate-1.0
___ 02:02AM BLOOD Calcium-8.0* Phos-2.7 Mg-2.3

MICROBIOLOGY
============
     **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 9:29 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PLEURAL FLUID. 

   Fluid Culture in Bottles (Preliminary):    NO GROWTH. 

___ 9:29 pm PLEURAL FLUID      PLEURAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

IMAGING/STUDIES
===============
___ 09:29PM PLEURAL WBC-500* RBC-413* Polys-1* Lymphs-42* 
Monos-1* Meso-2* Macro-21* Other-33*
___ 09:29PM PLEURAL TotProt-4.7 Glucose-146 LD(LDH)-491 
Amylase-1254 Cholest-85

Pleural fluid:
POSITIVE FOR MALIGNANT CELLS.
Adenocarcinoma, consistent with lung origin. (See note.)
Note: The atypical cells show positive staining for cytokeratin 
7 and TTF1. Some cells show weak
staining for ___ and few cells show staining for B72.3. These 
cells are nonreactive for
calretinin, WT-1, cytokeratin 20, mammaglobin, GCDFP-15 and ER. 
These findings support the
diagnosis and are consistent with a lung origin. Clinical 
correlation is needed. Drs. ___ and ___ were notified of the diagnosis via e-mail.

___ PORTABLE CXR:
IMPRESSION: 
Very large new left-sided pleural effusion.

___ PORTABLE CXR:
Marked reduction in left pleural effusion after catheter 
placement.  Small new left-sided pneumothorax.

___ PORTABLE CXR:
as compared to the previous radiograph, the pigtail catheter on 
the left has drained most of the pre-existing left pleural 
effusion. However, the pneumothorax, pre described on the 
previous report, has increased in extent and severity. New 
parenchymal opacity in the left lung.  No change in appearance 
of the cardiac silhouette and of the right lung.

___ PORTABLE CXR:
IMPRESSION: 
1.  Small left-sided pneumothorax,  decreased in size. 
2. Improved left lung parenchymal opacities but stable left 
apical opacity.
3. Increased pulmonary vascular congestion in the right lung.
 
 
 
Brief Hospital Course:
BRIEF SUMMARY
=============
___ year old female with a history of severe dementia who 
presents after an aspiration event with a large left pleural 
effusion, hypotension, and a new O2 requirement. S/p chest tube 
placement ___ with cytology showing malignant cells consistent 
with lung adenocarcinoma. Patient was made comfort-measures only 
on ___. 

For details on hospital course, please see below.

ACTIVE ISSUES
=============
#L Pleural Effusion ___ lung adenocarcinoma - The patient 
presented with a new oxygen requirement and was found to have a 
large left pleural effusion. IP was consulted on admission and 
placed a L chest tube with removal of pleural fluid. By Light's 
criteria, the fluid was found to be exudative and cytology later 
revealed malignant cells consistent with lung adenocarcinoma. Of 
note, patient had lesion noted in ___ CXR concerning for 
primary malignancy which does not seem to have been followed up. 
The patient was originally planned for a Pleurx catheter by IP 
for comfort but there was not enough reaccumulation of pleural 
fluid after the chest tube was clamped, so the decision was made 
to discontinue the chest tube on ___. The patient was 
subsequently made comfort measures only on ___. 

# Aspiration pneumonia/Sepsis - The patient with a known 
aspiration event and presented with tachycardia, WBC count of 
12.5, and hypotension with a suspected infection as she met 
criteria for sepsis. Her lactate was 1.8. Cr is baseline at 1. 
She was requiring Levophed to maintain her blood pressure in the 
ICU via a femoral line. The patient was on vancomycin/Zosyn for 
treatment of aspiration pneumonia vs. HCAP. She was made comfort 
measures only on ___, so antibiotics, Levophed, and the femoral 
line were discontinued.  

# Hypernatremia: The patient had Na of 146 on admission, which 
had downtrended to 135 on ___. She has not had PO intake during 
this hospitalization due to concern for aspiration but was given 
a liberal diet once made comfort measures only. 

CHRONIC ISSUES
==============
# Dementia - Patient was given Zydis 5 mg qhs and Ativan 1 mg IV 
for agitation. Of note, she had been on scheduled benzos at her 
SNF. She was transitioned to oral disintegrating olanzapine 
prior to discharge.

# Non-insulin dependent diabetes - Patient's home metformin was 
held. She was placed on sliding scale insulin. This is stopped 
when pt transitoned to comfort measures.

#Depression - Patient's PO home psych meds were held in the 
setting of poor PO intake.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain, fevers 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. Lorazepam 0.5 mg PO BID:PRN anxiety 
5. Mirtazapine 30 mg PO HS 
6. Gabapentin 300 mg PO BID 
7. Lorazepam 0.5 mg PO TID 
8. TraZODone 25 mg PO HS:PRN insomnia 
9. TraZODone 25 mg PO HS 
10. Gabapentin 400 mg PO DAILY 
11. Cyanocobalamin 1000 mcg PO DAILY 
12. Sorbitol 15 ml PO DAILY 

 
Discharge Medications:
1. Morphine Sulfate (Concentrated Oral Soln) ___ mg PO Q2H:PRN 
respiratory distress 
2. OLANZapine (Disintegrating Tablet) 5 mg PO Q4H:PRN 
delirium/restlessness  
3. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Lung cancer
Malignant pleural effusion
Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mrs. ___ was admitted due to respiratory distress and was 
found to have a malignant pleural effusion. A chest tube was 
placed with improvement in her respiratory status and given her 
poor prognosis she was transitioned to comfort care.
 
Followup Instructions:
___